US04764617
Preparation of β-piperidinopropiophenone oxime
In 470 ml of water were dissolved 60.2 g of β-piperidinopropiophenone hydrochloride and 18.1 g of hydroxylamine hydrochloride. To this solution was added portionwise 21.9 g of sodium hydrogencarbonate. After the whole amount was added, the mixture was stirred overnight. To the stirred mixture was then added an aqueous solution of 14.2 g of sodium hydroxide in 47 ml of water. Thus obtained mixture was well stirred and allowed to stand for 2 hours to produce a white precipitate. The precipitate was collected by filtration and washed successively with two portions of 200 ml of water and ethanol. The washed precipitate was dried to obtain a white solid. The solid was then recrystallized from methanol to obtain 41.2 g (yield: 74.8%) of the subject compound as a silver-white scaly product.

reactant | β-piperidinopropiophenone hydrochloride | 60.2 g | Cl.N1(CCCCC1)CCC(=O)C1=CC=CC=C1
reactant | hydroxylamine hydrochloride | 18.1 g | Cl.NO
reactant | sodium hydrogencarbonate | 21.9 g | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | 14.2 g | [OH-].[Na+]
solvent | water | 470 ml | O | H2O
solvent | water | 47 ml | O | H2O
catalyst | silver | [Ag] | Ag
product | β-piperidinopropiophenone oxime | 41.2 g, yield: 74.8% | N1(CCCCC1)CCC(C1=CC=CC=C1)=NO | C14H20N2O
